US08486946B2
Step 1: Preparation of (2-bromo-6-fluorophenyl) hydrazine hydrochloride
2-Bromo-6-fluoroaniline (2.0 g, 10 mmol) was dissolved in hydrochloric acid (7.0 mL, 12 N aqueous, 8.0 equiv) and cooled to 0° C. An aqueous solution (10 mL) of sodium nitrite (0.80 g, 11 mmol, 1.1 equiv) was added dropwise over 30 minutes via addition funnel and the mixture was stirred for an additional 30 minutes at 0° C. A hydrochloric acid solution (10 mL, 12 N aqueous) of stannous chloride (7.1 g, 31 mmol, 3.0 equiv) was then added to the mixture over 45 minutes via addition funnel and the mixture was stirred for an additional 1 hour at 0° C. To the mixture, sodium hydroxide (30 mL, 1 N aqueous) was added slowly until basic (pH>8). The mixture was warmed to ambient temperature, poured into sodium hydroxide (50 mL, 25% aqueous) and the aqueous layer was extracted with diethyl ether (3×250 mL). The combined organic extracts were dried with sodium sulfate, filtered and partially concentrated in vacuo. The mixture was diluted with diethyl ether (200 mL) and treated with gaseous hydrochloric acid until saturated, resulting in a white precipitate, which was filtered and washed with diethyl ether (2×50 mL), providing the titled compound as a white solid.

reactant | 2-Bromo-6-fluoroaniline | 10 mmol, 2.0 g | BrC1=C(N)C(=CC=C1)F | C6H5BrFN
reactant | hydrochloric acid | 12 N, 7.0 mL, 8.0 equiv | Cl | ClH
reactant | sodium nitrite | 11 mmol, 10 mL, 0.80 g, 1.1 equiv | N(=O)[O-].[Na+]
reactant | hydrochloric acid | 12 N, 10 mL | Cl | ClH
solvent | sodium hydroxide | 50 mL | [OH-].[Na+]
solvent | sodium hydroxide | 1 N, 30 mL | [OH-].[Na+]
product | (2-bromo-6-fluorophenyl) hydrazine hydrochloride | Cl.BrC1=C(C(=CC=C1)F)NN | InChI=1S/C6H6BrFN2.ClH/c7-4-2-1-3-5(8)6(4)10-9;/h1-3,10H,9H2;1H
